US08729102B2
A mixture of N-[(1S)-2-{4-[6-(benzyloxy)-1,3-benzothiazol-2-yl]phenoxy}-1-methylethyl]acetamide (46 mg), trifluoroacetic acid (1 mL) and thioanisole (0.1 mL) was stirred at 55° C. for 16 hr. The reaction mixture was concentrated under reduced pressure, and the residue was washed with diisopropyl ether to give N-{(1S)-2-[4-(6-hydroxy-1,3-benzothiazol-2-yl)phenoxy]-1-methylethyl}acetamide (38.6 mg) as a powder. Using the obtained powder, and in the same manner as in Example 1, step A, the title compound was obtained.

reactant | N-[(1S)-2-{4-[6-(benzyloxy)-1,3-benzothiazol-2-yl]phenoxy}-1-methylethyl]acetamide | 46 mg | C(C1=CC=CC=C1)OC1=CC2=C(N=C(S2)C2=CC=C(OC[C@H](C)NC(C)=O)C=C2)C=C1 | C25H24N2O3S
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | thioanisole | 0.1 mL | C1(=CC=CC=C1)SC | C7H8S
product | N-{(1S)-2-[4-(6-hydroxy-1,3-benzothiazol-2-yl)phenoxy]-1-methylethyl}acetamide | 38.6 mg | OC1=CC2=C(N=C(S2)C2=CC=C(OC[C@H](C)NC(C)=O)C=C2)C=C1 | C18H18N2O3S
